US07183278B1
28% aqueous ammonia (100 ml) and 30 ml of ethanol were added to 3-benzyloxy-2-methyl-4-pyrone (40.6 g, 0.188 mol). The mixture was stirred at room temperature for 5 days. The reaction mixture was concentrated under the reduced pressure. The precipitate was filtered, and was then washed with a minor amount of ethyl acetate to give 32.2 g of 3-benzyloxy-2-methyl-4-pyridone as a light yellow crystal. The same compound was also obtained from the filtrate (5.6 g, yield 93%).

reactant | ammonia | 100 ml | N | H3N
reactant | 3-benzyloxy-2-methyl-4-pyrone | 0.188 mol, 40.6 g | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C | C13H12O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-benzyloxy-2-methyl-4-pyridone | 32.2 g | C(C1=CC=CC=C1)OC1C(=NC=CC1=O)C | C13H13NO2
